US04730005
(a) 2-(1-dodecyn-1-yl)benzaldehyde
A mixture of 2-bromobenzaldehyde (10.05 mmoles), 1-dodecyne (12.03 mmoles), cuprous iodide (0.11 mmoles) and bis(triphenylphosphine) palladium chloride (0.20 mmoles) in freshly distilled triethylamine (30 ml.) was heated for one hour at reflux producing a white precipitate. The reaction mixture was cooled and filtered. The filtrate was evaporated to dryness at reduced pressure and then dissolved in diethyl ether (50 ml) and washed with brine (50 ml). After treatment with anhydrous magnesium sulfate and charcoal, the solution was evaporated to afford a dark oil, which was purified by flash chromatography (2% Et2O/hexane) to yield the desired product.

reactant | 2-bromobenzaldehyde | 10.05 mmoles | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 1-dodecyne | 12.03 mmoles | C#CCCCCCCCCCC | C12H22
catalyst | bis(triphenylphosphine) palladium chloride | 0.20 mmoles | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 2-(1-dodecyn-1-yl)benzaldehyde | C(#CCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C19H26O
